US07638515B2
10 g of 2,5-difluoroaniline and 6 g of pyridine in 350 ml of dichloromethane are mixed drop by drop at 0° C. with 12.9 g of cinnamic acid chloride and stirred until conversion is completed at 0° C. The batch is added to 2N hydrochloric acid, and it is extracted with dichloromethane. It is washed with water, dried with sodium sulfate and concentrated by evaporation in a vacuum. The solid that is obtained is mixed with 11.1 g of aluminum chloride and heated for 8 hours to 150° C. After chromatography on silica gel, 2.9 g of 5,8-difluoroquinolin-2(1H)-one is obtained. The latter is reacted in 100 ml of ethylene glycol in the presence of 780 mg of copper(II) oxide for 20 hours at 200° C. in ammonia atmosphere at 60 bar. After chromatography on silica gel, in this case 5-amino-8-fluoroquinolin-2(1H)-one is obtained as fraction A and 2,5-diamino-8-fluoroquinoline is obtained as fraction B.

reactant | 2,5-difluoroaniline | 10 g | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | cinnamic acid chloride | 12.9 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | aluminum chloride | 11.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | pyridine | 6 g | N1=CC=CC=C1 | C5H5N
product | 5,8-difluoroquinolin-2(1H)-one | 2.9 g | FC1=C2C=CC(NC2=C(C=C1)F)=O | C9H5F2NO
